US05292767
To a stirred solution of tert-butyl (4S)-5-chloro-4-hydroxy-2-hydroxymethylpentanoate (10.0 g) and triethylamine (12.7 g) in methylene chloride (100 ml), mesyl chloride (11.5 g) was added dropwise under ice-cooling and the mixture was stirred for 20 minutes. The mixture was concentrated in vacuo. Water was added to the residue and extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium bicarbonate solution, water and saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate and concentrated in vacuo. The oily residue was dissolved in benzene (130 ml) and 1,8-diazabicyclo[5.4.0]undec-7-ene (7.0 g) was added to the solution. The mixture was stirred for 2 hours at room temperature. Water was added to the mixture and extracted with ethyl acetate. The organic layer was washed with water and saturated sodium chloride solution, dried over anhydrous magnesium sulfate and concentrated in vacuo. The oily residue was purified by a silica gel column chromatography to give 11.1 g (89%) of tert-butyl (4S)-5-chloro-4-mesyloxy-2-methylenepentanoate.

reactant | tert-butyl (4S)-5-chloro-4-hydroxy-2-hydroxymethylpentanoate | 10.0 g | ClC[C@H](CC(C(=O)OC(C)(C)C)CO)O | C10H19ClO4
reactant | triethylamine | 12.7 g | C(C)N(CC)CC | C6H15N
reactant | mesyl chloride | 11.5 g | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl (4S)-5-chloro-4-mesyloxy-2-methylenepentanoate | 11.1 g, 89% | ClC[C@H](CC(C(=O)OC(C)(C)C)=C)OS(=O)(=O)C | C11H19ClO5S
